US05716756
1,1,1-Trifluoro-2-phenylpropan-2-ol was prepared from benzene and 1,1,1-trifluoroacetone by an AlCl3 -catalyzed Friedel-Crafts reaction.

reactant | 1,1,1-trifluoroacetone | FC(C(=O)C)(F)F | C3H3F3O
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 1,1,1-Trifluoro-2-phenylpropan-2-ol | FC(C(C)(O)C1=CC=CC=C1)(F)F | C9H9F3O
